US06800637B2
N-[4-(1-Benzofuran-3-yl)butyl]-N-ethyl-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine
To a solution of N-[3-(1-benzofuran-3-yl)propyl]-N-{[(2S)-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine (206 mg, 0.512 mmol) in anhydrous tetrahydrofuran (3 mL) was added acetaldehyde (206 μL, 3.67 mmol), sodium triacetoxyborohydride (445 mg, 2.1 mmol), and glacial acetic acid (41 μL, 0.716 mmol). The reaction was allowed to stir at ambient temperature overnight, then was quenched with 1 M aqueous sodium hydroxide (5 mL) and diluted with water (10 mL). The aqueous mixture was extracted with methylene chloride (3×25 mL). The combined organic layers were washed with brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography on silica gel (50/45/5 ethyl acetate/hexane/triethylamine) afforded 120 mg (55%) of the title compound as an orange oil, which was converted to its fumarate salt as a brown solid: mp 87-92° C.; MS (ES) m/z 431 [M+H]+; [α]D −8.58° (c 1.0, DMSO).

reactant | N-[3-(1-benzofuran-3-yl)propyl]-N-{[(2S)-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine | 0.512 mmol, 206 mg | O1C=C(C2=C1C=CC=C2)CCCNC[C@H]2COC=1C(=C3C=CC(=NC3=CC1)C)O2 | C24H24N2O3
reactant | acetaldehyde | 3.67 mmol, 206 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 2.1 mmol, 445 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.716 mmol, 41 μL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[4-(1-Benzofuran-3-yl)butyl]-N-ethyl-N-{[(2S)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl}amine | 120 mg, 55% | O1C=C(C2=C1C=CC=C2)CCCCN(C[C@H]2COC=1C(=C3C=CC(=NC3=CC1)C)O2)CC | C27H30N2O3
